US08981084B2
6N HCl (1 mL) was added to the compound tert-butyl 4-(5-cyanopyridin-2-yl)-3-methylpiperazine-1-carboxylate (120 mg, 0.39 mmol) and the reaction mixture was stirred at 90° C. for 30 min. The reaction mixture was cooled to room temperature, concentrated under reduced pressure and triturated with ether to afford 6-(2-methylpiperazin-1-yl)nicotinonitrile hydrochloride (90 mg, crude). 1H NMR (400 MHz, D2O) δ 8.39 (d, J=2.0 Hz, 1H), 7.85 (dd, J=9.3 Hz, J=2.3 Hz, 1H), 6.95 (d, J=9.5 Hz, 1H), 4.74 (m, 2H), 4.32-4.27 (m, 1H), 3.48-3.41 (m, 1H), 3.35-3.28 (m, 2H), 3.17-3.10 (m, 1H), 1.27 (d, J=7.0 Hz, 3H)

reactant | HCl | 6N, 1 mL | Cl | ClH
reactant | tert-butyl 4-(5-cyanopyridin-2-yl)-3-methylpiperazine-1-carboxylate | 0.39 mmol, 120 mg | C(#N)C=1C=CC(=NC1)N1C(CN(CC1)C(=O)OC(C)(C)C)C | C16H22N4O2
product | 6-(2-methylpiperazin-1-yl)nicotinonitrile hydrochloride | 90 mg | Cl.CC1N(CCNC1)C1=NC=C(C#N)C=C1 | InChI=1S/C11H14N4.ClH/c1-9-7-13-4-5-15(9)11-3-2-10(6-12)8-14-11;/h2-3,8-9,13H,4-5,7H2,1H3;1H
